US05114936
To a solution consisting of 5-(3-chloropropyl)-3-(2-fluorophenyl)-6,7-dihydro-1,2-benzisoxazol-4(5H)-one (5.8 g) and DMF (100 ml) was added anhydrous potassium carbonate (1.3 g), diisopropylethyl amine (4.9 ml), 1-(4-fluorophenyl)piperazine (4.1 g) and potassium iodide (0.3 g) at room temperature with stirring. The flask was flushed with nitrogen and warmed to 80° C. for 13.5 hours. Upon cooling to room temperature, water and ethyl acetate were added to the reaction mixture. The layers were separated and the aqueous phase was extracted 3 times with ethyl acetate. The combined organic layers were washed with water twice, brine, and then dried (MgSO4). Filtration and concentration gave the crude product. Purification via flash column chromatography (silica gel, 2% triethylamine/ether) afforded 4.0 g of 6,7-dihydro-5-[3-(4-(4-fluorophenyl)-1-piperazinyl)-propyl]-3-(2-fluorophenyl)-1,2-benzisoxazol-4(5H)-one as an oil. The product was flushed thru alumina with ether. The hydrochloride was prepared in ether with ethereal HCl. The precipitate was filtered and washed with pentane, m.p. 161°-164° C.

reactant | 5-(3-chloropropyl)-3-(2-fluorophenyl)-6,7-dihydro-1,2-benzisoxazol-4(5H)-one | 5.8 g | ClCCCC1CCC2=C(C(=NO2)C2=C(C=CC=C2)F)C1=O | C16H15ClFNO2
reactant | potassium carbonate | 1.3 g | C([O-])([O-])=O.[K+].[K+]
reactant | diisopropylethyl amine | 4.9 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 1-(4-fluorophenyl)piperazine | 4.1 g | FC1=CC=C(C=C1)N1CCNCC1 | C10H13FN2
reactant | potassium iodide | 0.3 g | [I-].[K+]
solvent | DMF | 100 ml | CN(C)C=O | C3H7NO
product | 6,7-dihydro-5-[3-(4-(4-fluorophenyl)-1-piperazinyl)-propyl]-3-(2-fluorophenyl)-1,2-benzisoxazol-4(5H)-one | 4.0 g | FC1=CC=C(C=C1)N1CCN(CC1)CCCC1CCC2=C(C(=NO2)C2=C(C=CC=C2)F)C1=O | C26H27F2N3O2
